US03988380
1.4 g (5 millimols) of diethyl 1-benzyl-2-butenephosphonate (a mixture of trans- and cis-forms) was dissolved in 10 ml. of dry ether, and the solution was stirred while being cooled with ice water. To the resulting solution was added 110 mg of lithium aluminum hydride, and the mixture was continued to be stirred. In about 2 hours, the reaction mixture was cooled with ice water, and with stirring, dilute hydrochloric acid was gradually added dropwise to decompose excess lithium aluminum hydride. the reaction mixture was extracted with ether, washed with an aqueous solution of sodium hydrogen carbonate and then with water, and dried. The solution was concentrated, and the residue was distilled at reduced pressure to afford 0.65 g (yield 89%) of 1-phenyl-2-pentene having a boiling point of 88° C. (14 torr). The analysis values of the product were as follows:

reactant | diethyl 1-benzyl-2-butenephosphonate | 5 millimols, 1.4 g | C(C1=CC=CC=C1)C(C=CC)P(OCC)(=O)OCC | C15H23O3P
reactant | lithium aluminum hydride | 110 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | hydrochloric acid | Cl | ClH
solvent | ether | CCOCC | C4H10O
product | 1-phenyl-2-pentene | 0.65 g, yield 89% | C1(=CC=CC=C1)CC=CCC | C11H14
